US05847159
Preparation of 1-[2-(3,4-dihydro-7-hydroxymethyl-2-naphthalenyl)ethyl]-pyrrolidine
1-[2-(3,4-Dihydro-7-methoxycarbonyl-2-naphthalenyl)ethyl]pyrrolidine (1.0 g) was dissolved in tetrahydrofuran (20 ml), and thereto was added dropwise a 1.5M solution of diisobutyl aluminum hydride in toluene (7.0 ml) under ice-cooling, and the mixture was stirred for one hour. To the reaction solution was added dropwise water to decompose the excess amount of the reducing agent, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol=30:1), and the fractions containing the desired compound were combined, and concentrated under reduced pressure to give the desired compound (0.8 g) as an oily product.

reactant | 1-[2-(3,4-Dihydro-7-methoxycarbonyl-2-naphthalenyl)ethyl]pyrrolidine | 1.0 g | COC(=O)C1=CC=C2CCC(=CC2=C1)CCN1CCCC1 | C18H23NO2
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | 7.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(3,4-dihydro-7-hydroxymethyl-2-naphthalenyl)ethyl]-pyrrolidine | 0.8 g | OCC1=CC=C2CCC(=CC2=C1)CCN1CCCC1 | C17H23NO
